US04623535
(a) 1,1-dimethoxy-2-undecyne
To freshly prepared ethyl magnesium bromide (from 61 mmoles bromoethane and 63 mmoles magnesium) was added 1-decyne (50 mmoles) in diethyl ether (10 ml) dropwise at ambient temperature. The reaction mixture was then heated at reflux for 2 hours. After cooling the reaction mixture, trimethylorthoformate (75 mmoles) in diethyl ether (10 ml) was added and the resultant mixture heated to distill off the diethyl ether. The resultant paste was taken up in anhydrous toluene (50 ml) and heated at reflux for 1 hour. The reaction mixture was poured into saturated ammonium chloride (50 ml) and then extracted with diethyl ether (3×50 ml). The organic phase was washed with water (3×20 ml) and dried over anhydrous magnesium sulfate. Evaporation of the organic phase afforded the desired product as an oil.

reactant | ethyl magnesium bromide | 61 mmoles | C(C)[Mg]Br
reactant | 1-decyne | 50 mmoles | C#CCCCCCCCC | C10H18
reactant | trimethylorthoformate | 75 mmoles | COC(OC)OC | C4H10O3
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1,1-dimethoxy-2-undecyne | COC(C#CCCCCCCCC)OC | C13H24O2
